* C:\users\nahu\Escritorio\TC_II\Mi Repo\TC-II\TPL1\UAF42vprueeba.asc
XU1 N001 N005 HPout opamp Aol=100K GBW=10Meg
XU2 N003 0 BPout opamp Aol=100K GBW=10Meg
XU3 N004 0 LPout opamp Aol=100K GBW=10Meg
C1 BPout N003 1000pF
C2 LPout N004 1000pF
R2 HPout N001 50K
R1 LPout N001 50K
R4 BPout N005 50K
RF1 N003 HPout 100K
RF2 N004 BPout 98.8K
RQ N005 0 12.15K
RG N001 Vi 49.7K
Rx LPout N002 17K
Cf 0 N002 10n
V1 Vi 0 AC 1 0
XU4 Vo N002 Vo opamp Aol=100K GBW=10Meg
.ac dec 1000 200 5K
.lib opamp.sub
.backanno
.end
