* C:\users\nahu\Escritorio\TC_II\Mi Repo\TC-II\Tarea Semanal\Tarea Semanal 13\TS13.asc
Vg N001 0 SINE() AC 1 Rser=1
L1 N001 N002 {L1}
L2 N002 N003 {L2}
C1 N002 0 {C1}
RL N003 0 1
.param fo=1 wo=2*pi*fo L1=1.225/wo C1=0.553/wo L2=0.192/wo
.ac dec 1000 0.1 50
.net I(RL) Vg
.backanno
.end
