* C:\users\nahu\Escritorio\TC_II\Mi Repo\TC-II\Tarea Semanal\Tarea Semanal 2\TS2.asc
XU1 0 N004 VO1 opamp Aol=100K GBW=10Meg
XU2 N001 0 VO2 opamp Aol=100K GBW=10Meg
XU3 0 N003 N002 opamp Aol=100K GBW=10Meg
R1 N001 Vi {1/K}
R2 VO2 N001 {Q}
R3 N004 VO2 1
R4a VO1 N003 1
R4 N003 N002 1
R3a VO1 N001 1
C2 N004 N002 {C}
C1 VO2 N001 {C}
V1 Vi 0 SINE() AC 1m
.lib opamp.sub
.ac dec 100 100m 100
.param K=10 Q=3 C=1/(2*pi)
.backanno
.end
