* C:\users\nahu\Escritorio\TC_II\Mi Repo\TC-II\Tarea Semanal\Tarea Semanal 5\TS5_Desnormalizado.asc
XU1 N001 N002 Vo opamp Aol=100K GBW=10Meg
XU2 N002 N005 N004 opamp Aol=100K GBW=10Meg
Ca N006 Vi {Ca}
Ra N006 0 {Ra}
V1 Vi 0 AC 10m
XU3 N003 N006 N003 opamp Aol=100K GBW=10Meg
C1 N001 N003 {C1}
R1 N001 0 {R1}
R2 N004 N001 {R2}
R4 N002 N004 {R}
R3 Vo N002 {R}
C2 N005 Vo {C1}
R5 N005 N003 {R}
.lib opamp.sub
.param Ca=1/(wo) Ra=1
.param C1=1/(wo) R=9/8 R1=1 R2=8/9
.param wo=2*pi*300
.ac dec 1000 1 10K
* Parametros Etapa 1
* Parametros Etapa 2
* Parametros de Simulacion
.backanno
.end
