* C:\users\nahu\Escritorio\TC_II\Mi Repo\TC-II\Tarea Semanal\Tarea Semanal 3\TS3_b.asc
C1 N001 0 100n
R1 N001 Vi 848.83
XU1 N002 N001 N002 opamp Aol=100K GBW=10Meg
R2 N003 N002 848.83
L1 N003 Vo 72.05m
C2 Vo 0 100n
V1 Vi 0 AC 10m
.lib opamp.sub
.ac dec 100 10 5k
.backanno
.end
