* C:\users\nahu\Escritorio\TC_II\Mi Repo\TC-II\Tarea Semanal\Tarea Semanal 4 Bis\TS4_bis.asc
XU1 0 N015 N002 opamp Aol=100K GBW=10Meg
XU2 N001 0 N013 opamp Aol=100K GBW=10Meg
XU3 0 N008 N007 opamp Aol=100K GBW=10Meg
R1 N001 Vi {1/K1}
R2 N013 N001 {Q1}
R3 N015 N013 1
R4a N002 N008 1
R4 N008 N007 1
R3a N002 N001 1
C2 N015 N007 {C1}
C1 N013 N001 {C1}
V1 Vi 0 SINE() AC 1m
XU4 0 N016 N004 opamp Aol=100K GBW=10Meg
XU5 N003 0 N014 opamp Aol=100K GBW=10Meg
XU6 0 N010 N009 opamp Aol=100K GBW=10Meg
R5 N003 N013 {1/K2}
R6 N014 N003 {Q2}
R7 N016 N014 1
R8 N004 N010 1
R9 N010 N009 1
R10 N004 N003 1
C3 N016 N009 {C2}
C4 N014 N003 {C2}
XU7 0 N017 N006 opamp Aol=100K GBW=10Meg
XU8 N005 0 Vo opamp Aol=100K GBW=10Meg
XU9 0 N012 N011 opamp Aol=100K GBW=10Meg
R11 N005 N014 {1/K3}
R12 Vo N005 {Q3}
R13 N017 Vo 1
R14 N006 N012 1
R15 N012 N011 1
R16 N006 N005 1
C5 N017 N011 {C3}
C6 Vo N005 {C3}
.lib opamp.sub
.ac dec 100 300m 3
.param K1=1.452 Q1=2.222 C1=1/(wo)
.param wo=2*pi
* Directivas de Simulación
* Sección 1
* Norma de Impedancia para normalizar a 1 Hz
.param K2=0.2784 Q2=4.53 C2=0.823/(wo)
* Sección 2
.param K3=0.7125 Q3=4.53 C3=1.215/(wo)
* Sección 3
.backanno
.end
