* C:\users\nahu\Escritorio\TC_II\Mi Repo\TC-II\Tarea Semanal\Tarea Semanal 4 Bis Bis\Implementacion_Pasiva.asc
R1 N001 Vi 7.6
L1 N001 0 {L1}
C1 N001 0 {C1}
XU1 N002 N001 N002 opamp Aol=100K GBW=10Meg
L2 N003 0 {L2}
C2 N003 0 {C2}
XU2 N004 N003 N004 opamp Aol=100K GBW=10Meg
R2 N003 N002 13.73
L3 Vo 0 {L3}
C3 Vo 0 {C3}
R3 Vo N004 17.17
V1 Vi 0 AC 1
.lib opamp.sub
.param C1=1/fo L1=1/fo R1=7.599
.param C2=1.24/fo L2=1/fo
.param C3=0.8/fo L3=1/fo
.ac dec 1000 100m 3
.param fo=2*pi
.backanno
.end
