* C:\users\nahu\Escritorio\TC_II\Mi Repo\TC-II\Tarea Semanal\Tarea Semanal 6\Ej #2\Draft1.asc
L1 Vi N001 {1.5/wo}
L3 N001 Vo {0.5/wo}
C2 N001 0 {(4/3)/wo}
R1 Vo 0 1
V1 Vi 0 AC 1
.ac dec 100 0.01 5
.param wo = 2 *  pi * f
.param f = 1
.backanno
.end
