* C:\users\nahu\Escritorio\TC_II\Mi Repo\TC-II\Tarea Semanal\Tarea Semanal 6\Ej #1\Trafo Ej #1.asc
V2 1 0 1 AC 1 0 Rser=0.000001
R1 1 0 1
R2 3 1 2
R3 0 3 3
L1 0 1 100m
L2 3 0 100m
K L1 L2 1
.net I(R3) V2
.ac dec 100 0.01 30
.backanno
.end
